US06156943
Hexafluoroisobutene (HFIB) (32 g, 0.2 mol), aluminum chlorofluoride AlClxFy (5 g) and hexafluoropropene (30 g, 0.2 mol) were charged into a 400 mL Hastelloy™ nickel alloy reactor and agitated at 50° C. for 12 hours. The reaction mixture was poured onto ice, the organic (lower) layer was separated, dried over P2O5 and distilled to give 21 g (34% yield) of (CF3)2CFCH2C(CF3)=CF2, b.p. 80.5-81.5 (see Table 1).

reactant | Hexafluoroisobutene | 0.2 mol, 32 g | FC(C(=C)C(F)(F)F)(F)F | C4H2F6
reactant | aluminum chlorofluoride | ClF.[Al]
reactant | hexafluoropropene | 0.2 mol, 30 g | FC(C(=C(F)F)F)(F)F | C3F6
catalyst | nickel | [Ni] | Ni
product | (CF3)2CFCH2C(CF3)=CF2 | 21 g, 34% yield | C(F)(C(F)(F)F)(C(F)(F)F)CC(C(F)(F)F)=C(F)F | C7H2F12
